US06680316B1
Preparation of 5,6-bis(4-Methoxyphenyl)-2-cyclopropylmethyl-4-methylcarbamoyl-2H-pyridazin-3-one
Using 5,6-bis(4-methoxyphenyl)-4-carboxy-2-cyclopropylmethyl-2H-pyridazin-3-one and methylamine hydrochloride as starting materials, the procedures of Example 22 were repeated likewise, whereby the title compound was obtained in a yield of 88.2%.

reactant | 5,6-bis(4-methoxyphenyl)-4-carboxy-2-cyclopropylmethyl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CC1)=O)C(=O)O | C23H22N2O5
reactant | methylamine hydrochloride | Cl.CN
product | 5,6-bis(4-Methoxyphenyl)-2-cyclopropylmethyl-4-methylcarbamoyl-2H-pyridazin-3-one | yield of 88.2% | COC1=CC=C(C=C1)C1=C(C(N(N=C1C1=CC=C(C=C1)OC)CC1CC1)=O)C(NC)=O | C24H25N3O4
